US08034811B2
2-(4-Fluoro-benzylamino)-nicotinonitrile
To a stirred suspension of 2-chloro-nicotinonitrile (Aldrich, 3.30 g, 23.82 mmol) in 2-propanol (30 ml) was added 4-fluoro-benzylamine (3.00 ml, 26.25 mmol) and N,N-diisopropylethylamine (8.30 ml, 47.65 mmol). The reaction mixture was heated to 80° C. for 24 hours. More 4-fluoro-benzylamine (0.55 ml, 4.81 mmol) was added and stirring was continued at 80° C. for another 24 hours. The reaction mixture was cooled to room temperature and the precipitated material was isolated by filtration and washed with 2-propanol. Residual 2-propanol was removed in vacuo affording the title compound (3.04 g) as a white crystalline material. 1H-NMR (DMSO-d6) δ 8.23-8.25 (m, 1H), 7.91 (dd, 1H), 7.73 (t, 1H), 7.34-7.38 (m, 2H), 7.08-7.14 (m, 2H), 6.63-6.67 (m, 1H), 4.57 (d, 2H).

reactant | 2-chloro-nicotinonitrile | 23.82 mmol, 3.30 g | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
reactant | 4-fluoro-benzylamine | 26.25 mmol, 3.00 ml | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | N,N-diisopropylethylamine | 47.65 mmol, 8.30 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-fluoro-benzylamine | 4.81 mmol, 0.55 ml | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | 2-propanol | 30 ml | CC(C)O | C3H8O
product | 2-(4-Fluoro-benzylamino)-nicotinonitrile | 3.04 g | FC1=CC=C(CNC2=C(C#N)C=CC=N2)C=C1 | C13H10FN3
